US06080870
Step E: 2-Butyl-4-phenylbenzenemethanol
To a 100 mL round bottomed flask with a stirring bar and an argon inlet was added 2-chloroethyl 3-butyl-4-phenylbenzoate (570 mg, 1.80 mmol), THF (9 mL) and LiBH4 (9 mL of a 2M solution in THF, 18 mmol). This mixture was heated at reflux for 18 h. The cooled reaction mixture was treated with 1N HCl and extracted with EtOAc. The combined EtOAc extracts were washed with H2O and brine. Drying (MgSO4), filtration and removal of the solvent in vacuo gave an oil. This material was chiromatographed on silica gel using 20% EtOAc in hexane as eluant to afford the title compound as a crystalline solid.

reactant | 2-chloroethyl 3-butyl-4-phenylbenzoate | 1.80 mmol, 570 mg | C(CCC)C=1C=C(C(=O)OCCCl)C=CC1C1=CC=CC=C1 | C19H21ClO2
reactant | LiBH4 | [Li+].[BH4-]
reactant | HCl | 1N | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 9 mL | C1CCOC1 | C4H8O
product | 2-Butyl-4-phenylbenzenemethanol | C(CCC)C1=C(C=CC(=C1)C1=CC=CC=C1)CO | C17H20O
